US05521173
10,11-Dihydro-10-[[4'-(2-propenyloxy)[1,1'-biphenyl]-4-yl]carbonyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a solution of 3.3 g of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 60 ml of dry methylene chloride, under nitrogen, and cooled to 0° C. is added 22.0 ml of triethylamine followed by a solution of 1.2 equivalents of 4'-(2-propenyloxy)-[1,1'-biphenyl]-4-carbonyl chloride in 20 ml of methylene chloride. The reaction mixture is stirred at room temperature for 16 hours. The reaction mixture is diluted with 50 ml of chloroform and washed with 50 ml each of water, 2N HCl, water, saturated NaHCO3 and water. The organic layer is dried (Na2SO4) and columned on silica gel by elution with 7:1 to 3:1 ethyl acetate:hexane to give 4.8 g of the desired product as a solid. M+H 421.2 M+Na 443.2.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 3.3 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 22.0 ml | C(C)N(CC)CC | C6H15N
reactant | 4'-(2-propenyloxy)-[1,1'-biphenyl]-4-carbonyl chloride | 1.2 equivalents | C(C=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C16H13ClO2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 10,11-Dihydro-10-[[4'-(2-propenyloxy)[1,1'-biphenyl]-4-yl]carbonyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 4.8 g | C(C=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C28H24N2O2
